US06150373
A solution of 90 mg (0.17 mmol) of methyl 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate in tetrahydrofuran/methanol/water (6 ml:6 ml:1.5 ml) was treated with 27 mg (1.125 mmol) of lithium hydroxide monohydrate then heated at 60° C. for 3 hours under a nitrogen atmosphere. The solvent was evaporated and the residue partitioned between ethyl acetate (10 ml) and 2M hydrochloric acid (10 ml). The ethyl acetate layer was separated, washed with saturated aqueous sodium bicarbonate (10 ml), dried over magnesium sulfate, filtered and evaporated to give 30 mg (35%) of 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoic acid as a pale yellow solid of melting point 180-183° C. [Mass spectrum (ESI) MH+ =530].

reactant | methyl 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate | 0.17 mmol, 90 mg | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC=2C=C(C(=O)OC)C=CC2 | C27H22BrN5O3
reactant | lithium hydroxide monohydrate | 1.125 mmol, 27 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 6 ml | O1CCCC1.CO.O
product | 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoic acid | 30 mg, 35% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC=2C=C(C(=O)O)C=CC2 | C26H20BrN5O3
